US07585886B2
A 40 ml acetonitrile solution of 1.234 g of tert-butyl {[(3R,4S)-1-(1H-imidazol-1-ylcarbonyl)-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate was mixed with 0.60 ml of methyl iodide and stirred overnight at room temperature. By evaporating the reaction solution under a reduced pressure, 1.966 g of 1-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}-3-methyl-1H-imidazol-3-ium iodide was obtained as a pale yellow solid . . . EP: 539.

reactant | tert-butyl {[(3R,4S)-1-(1H-imidazol-1-ylcarbonyl)-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate | 1.234 g | N1(C=NC=C1)C(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)[C@H](C)C1=CC=CC2=CC=CC=C12 | C32H36N4O3
reactant | methyl iodide | 0.60 ml | CI | CH3I
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}-3-methyl-1H-imidazol-3-ium iodide | 1.966 g | [I-].C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)N1C=[N+](C=C1)C | InChI=1S/C33H39N4O3.HI/c1-24(28-17-11-15-25-14-9-10-16-29(25)28)37(32(39)40-33(2,3)4)21-27-20-36(31(38)35-19-18-34(5)23-35)22-30(27)26-12-7-6-8-13-26;/h6-19,23-24,27,30H,20-22H2,1-5H3;1H/q+1;/p-1/t24-,27-,30-;/m1./s1
